* source SUPRA-PHONO-MM-MC-TRIAL1
.EXTERNAL INPUT +15V
.EXTERNAL INPUT -15V
V_V1         +15V 0 15Vdc
V_V2         -15V 0 -15Vdc
V_V3         N15387 0  AC 0.001V
+SIN 0V 0.001V 1kHz 0 0 0
C_C1         0 N15393  4.7p  TC=0,0 
R_R1         0 N15393  100R TC=0,0 
Q_Q3         N22678 N15601 N21664 BC860C 
Q_Q5         N22690 N15393 N21664 BC860C 
R_R6         -15V N22690  4.7k TC=0,0 
R_R7         N23498 N22678  1.8k TC=0,0 
Q_Q6         N15631 N20677 N21394 BC860C 
Q_Q7         N15631 N22690 N23498 BC850C 
R_R8         -15V N23498  150 TC=0,0 
R_R9         N21394 +15V  150 TC=0,0 
R_R10         N15601 N15631  150k TC=0,0 
R_R11         0 N15601  27R TC=0,0 
C_C3         N15631 N15795  470nF  TC=0,0 
R_R12         0 N15795  47k TC=0,0 
R_R4         N20649 N21394  1.8k TC=0,0 
R_R3         N20677 +15V  4.7k TC=0,0 
Q_Q21         N20649 N15601 N20977 BC850C 
Q_Q27         N20649 N15601 N21001 BC850C 
R_R15         -15V N20993  {Rcur} TC=0,0 
Q_Q22         N20677 N15393 N20985 BC850C 
R_R16         -15V N21001  {Rcur} TC=0,0 
R_R13         -15V N20977  {Rcur} TC=0,0 
Q_Q23         N20649 N15601 N20985 BC850C 
R_R14         -15V N20985  {Rcur} TC=0,0 
Q_Q24         N20677 N15393 N20993 BC850C 
Q_Q25         N20649 N15601 N20993 BC850C 
Q_Q20         N20677 N15393 N20977 BC850C 
Q_Q26         N20677 N15393 N21001 BC850C 
R_R17         N21664 +15V  {Rcur} TC=0,0 
Q_Q28         N22690 N15393 N21877 BC860C 
Q_Q29         N22678 N15601 N21877 BC860C 
R_R18         N21877 +15V  {Rcur} TC=0,0 
R_R19         N22091 +15V  {Rcur} TC=0,0 
Q_Q31         N22678 N15601 N22091 BC860C 
Q_Q30         N22690 N15393 N22091 BC860C 
R_R20         N22306 +15V  {Rcur} TC=0,0 
Q_Q32         N22690 N15393 N22306 BC860C 
Q_Q33         N22678 N15601 N22306 BC860C 
E_LAPLACE1         N15393 0 LAPLACE {V(N15387)} 
+ {((1+3180u*S)*(1+75u*S))/(((1+318u*S)*(1+3.18u*S)*9.897))}
C_C4         N15601 N30352  3.3n  TC=0,0 
C_C5         N30352 N15631  10n  TC=0,0 
C_C6         N15601 N30352  3.3n  TC=0,0 
C_C7         N30352 N15631  10n  TC=0,0 
R_R21         N15601 N30352  12k TC=0,0 
.PARAM  rcur=68k
